US04886913
Into a one liter glass resin kettle equipped with an air-driven stirrer, a pressure-equalizing dropping funnel with Teflon® tube for subsurface addition, a thermometer and a dry ice/acetone cold condenser was added 66.5 grams (0.50 mole) of 2-methyl-2-(methylthio) propionaldehyde oxime (aldicarb oxime) and 266 milliliters of water. After cooling the mixture to a temperature of 5° C. with a water/salt/ice bath, 0.52 grams (0.005 mole) of triethylamine was added to the kettle under a nitrogen atmosphere. A stoichiometric amount of methyl isocyanate (29.5 milliliters, 0.50 mole) was then added over a period of 30 minutes at a temperature of 5° C.-10° C. with vigorous stirring. The water/salt/ice bath was removed and the mixture was stirred for an additional 60 minutes at a temperature of 15° C.-20° C. after which an additional 2.0 milliliters (0.03 mole) of methyl isocyanate was added and the mixture stirred for an additional period of 30 minutes. The water/salt/ice bath was then put back in place and 2.9 grams of phosphoric acid in 10 milliliters of water was added in a slow stream subsurface. The resulting solid product was filtered off on a sintered glass funnel to give 107.1 grams (wet weight) of a fluffy white powder. High pressure liquid chromatographic analysis (internal standard) indicated the following: 76.00 percent 2-methyl-2-(methylthio) propionaldehyde O-(methylcarbamoyl) oxime (aldicarb) (89percent yield based on aldicarb oxime) and 0.36 percent 2-methyl-2-(methylthio) propionaldehyde oxime (aldicarb oxime); 23.64 percent water content was determined by Karl Fischer titration.

reactant | 2-methyl-2-(methylthio) propionaldehyde oxime | 0.50 mole, 66.5 grams | CC(C=NO)(C)SC | C5H11NOS
reactant | triethylamine | 0.005 mole, 0.52 grams | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | 0.50 mole, 29.5 milliliters | CN=C=O | C2H3NO
reactant | methyl isocyanate | 0.03 mole, 2.0 milliliters | CN=C=O | C2H3NO
reactant | phosphoric acid | 2.9 grams | P(O)(O)(O)=O | H3O4P
solvent | water | 10 milliliters | O | H2O
solvent | water | 266 milliliters | O | H2O
product | 2-methyl-2-(methylthio) propionaldehyde O-(methylcarbamoyl) oxime | 89percent yield | CNC(=O)ON=CC(C)(SC)C | C7H14N2O2S
